US08383644B2
Suzuki coupling. To a solution of (S)-3-(5-bromo-thiophen-2-yl)-2-tert-butoxycarbonylamino-propionic acid methyl ester in toluene (10 mL) was added 4-cyanobenzeneboronic acid, Pd(PPh3)4, and 1N Na2CO3 solution (4 mL). The mixture was heated at reflux for 7 h. After completion of the reaction, the aqueous layer was drained. The organic was washed with 10% Na2CO3 and 1 N HCl. The organic was dried over sodium sulfate and concentrated under reduced pressure to afford the crude product. The residue was then purified by column chromatography (hexanes-EtOAc) to provide (S)-2-tert-butoxycarbonylamino-3-[5-(4-cyano-phenyl)-thiophen-2-yl]-propionic acid methyl ester.

reactant | (S)-3-(5-bromo-thiophen-2-yl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC=1SC(=CC1)Br)NC(=O)OC(C)(C)C)=O | C13H18BrNO4S
reactant | 4-cyanobenzeneboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 1N, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-tert-butoxycarbonylamino-3-[5-(4-cyano-phenyl)-thiophen-2-yl]-propionic acid methyl ester | COC([C@H](CC=1SC(=CC1)C1=CC=C(C=C1)C#N)NC(=O)OC(C)(C)C)=O | C20H22N2O4S
